US05677291
2,6-Di-t-butyl-4[(dimethyldodecylsilyl)methylthio]phenol (Compound B)
Mix 2,6-di-t-butyl-4-mercaptophenol (2.4 g, 10 mmol), potassium carbonate (1.7 g, 12.3 mmol), chloromethyldodecyldimethylsilane (2.8 g, 10 mmole) and dimethylformamide (50 mL) and stir overnight at room temperature under argon atmosphere. Dilute the mixture with ice-water, acidify with aqueous hydrochloric acid and extract with ethyl ether. Wash the ethereal layer with water, then brine, filter through fluorosil-Na2SO4 and evaporate to an orange semi-solid (4.0 g). Purify the product by first distilling (180°-200° C. @0.1 mm Hg) then subjecting to silica gel chromatography (CCl4) to obtain the title compound as a colorless oil which slowly crystallizes.

reactant | 2,6-di-t-butyl-4-mercaptophenol | 10 mmol, 2.4 g | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | potassium carbonate | 12.3 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyldodecyldimethylsilane | 10 mmole, 2.8 g | ClC[Si](C)(C)CCCCCCCCCCCC | C15H33ClSi
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2,6-Di-t-butyl-4[(dimethyldodecylsilyl)methylthio]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)SC[Si](CCCCCCCCCCCC)(C)C)C(C)(C)C)O | C29H54OSSi
